US05770603
Using an analogous procedure to that described in Example 5 except that the reaction mixture was stirred at ambient temperature for 72 hours, 4-(3'-chloro-4'-fluoroanilino)-6-hydroxy-7-methoxyquinazoline was reacted with 3-methyl-3-(4-toluenesulphonyloxymethyl)-oxetane (Chem. Pharm. Bull., 1985, 33, 1707) to give 4-(3'-chloro-4'-fluoroanilino)-7-methoxy-6-(3-methyloxetan-3-ylmethoxy)quinazoline in 24% yield, m.p. 226°-227° C. (recrystallised from ethanol); NMR Spectrum: 1.43 (s, 3H), 3.93 (s, 3H), 4.23 (s, 2H), 4.37 (d, 2H), 4.53 (d, 2H), 7.2 (s, 1H), 7.43 (t, 1H), 7.78 (m, 1H), 7.88 (s, 1H), 8.11 (m, 1H), 8.49 (s, 1H), 9.49 (s, 1H); Elemental Analysis: Found C, 59.5; H, 4.7; N, 10.2; C20H19ClFN3O3 requires C, 59.5; H, 4.7; N, 10.4%.

reactant | 4-(3'-chloro-4'-fluoroanilino)-6-hydroxy-7-methoxyquinazoline | ClC=1C=C(NC2=NC=NC3=CC(=C(C=C23)O)OC)C=CC1F | C15H11ClFN3O2
reactant | 3-methyl-3-(4-toluenesulphonyloxymethyl)-oxetane | CC1(COC1)COS(=O)(=O)C1=CC=C(C=C1)C | C12H16O4S
product | 4-(3'-chloro-4'-fluoroanilino)-7-methoxy-6-(3-methyloxetan-3-ylmethoxy)quinazoline | 24% yield | ClC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OCC2(COC2)C)OC)C=CC1F | C20H19ClFN3O3
